US04208343
2,4-dinitrobenzonitrile was prepared from 2,4-dinitrobenzoic acid and benzenesulfonamide by the method of Oxley, Partridge, Robson and Short, J. Chem. Soc., 1946, 763. The product was purified by chromatography on alumina, using tetrahydrofuran as a solvent: yield, 56%; m.p. 102° C.

reactant | 2,4-dinitrobenzoic acid | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
product | 2,4-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H3N3O4
